US06162824
To a stirred solution of 2.42 g (10 mmol) 9-phenylfluorene (prepared by reduction of 9-phenyl-9H-fluoren-9-of (Example 1b) with Zn in acetic acid according to the method of F. Ullmann, and R. von Wurstemberger, Ber., 73, 1904:37) in anhydrous tetrahydrofuran (20 mL) was added dropwise 4.8 mL (12 mmol) of a 2.5 M solution of butyllithium in hexanes at 0° C. under Ar. The mixture was stirred at room temperature for 0.5 h during which a white precipitate separated from the orange-colored solution. A solution of 2.7 g (12 mmol) of 2-(3-bromopropoxy)tetrahydro-2H-pyran (Aldrich) was then added dropwise at 0° C., stirring was continued for 0.5 h at room temperature and the solvent evaporated. The residue was dissolved in 80% acetic acid (10 mL), the solution stirred for 16 h at 80° C., most of the solvent removed under vacuo and the residue chromatographed on silica gel with dichloromethane to provide 1.4 g (yield 48%) of 3-(9-phenyl-9H-fluoren-9-yl)propanol as an oil. 1H NMR (CDCl3, 300 MHz) 6: 7.68 (d, 2H), 7.35-7.00 (m, 11H), 3.26 (t, 2H), 2.47 (dt, 2 h), 1.86 (s, 1H), 0.87 (dt, 2H); 13C NMR (CDCl3, 75 MHz) δ: 151.4, 144.6, 140.5, 128.2, 127.5, 127.1, 126.5, 126.3, 124.1, 119.8, 62.6, 58.2, 33.7, 27.1.

reactant | 9-phenylfluorene | 10 mmol, 2.42 g | C1(=CC=CC=C1)C1C2=CC=CC=C2C=2C=CC=CC12 | C19H14
reactant | butyllithium | C(CCC)[Li]
reactant | 2-(3-bromopropoxy)tetrahydro-2H-pyran | 12 mmol, 2.7 g | BrCCCOC1OCCCC1 | C8H15BrO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | Zn | [Zn] | Zn
product | 3-(9-phenyl-9H-fluoren-9-yl)propanol | 1.4 g, yield 48% | C1(=CC=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCO | C22H20O
